US09445594B2
Preparation of 1-(2-(4-isopropyl-4H-1,2,4-triazol-3-yl)phenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (F48)
3-(4-Isothiocyanatophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (WO 2011/017513) (0.088 g, 0.24 mmol), 2-(4-isopropyl-4H-1,2,4-triazol-3-yl)aniline (0.080 g, 0.40 mmol), and cesium carbonate (0.16 g, 0.50 mmol) in isopropyl alcohol (1.2 mL) was stirred at room temperature overnight. The reaction was diluted with water and extracted with ethyl acetate. The organic layers were dried over sodium sulfate, filtered and concentrated. The residue was loaded onto Celite® cartridge and purified by flash chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes as eluent to provide the title compound as a yellow solid (0.028 g, 20%).

reactant | 3-(4-Isothiocyanatophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 0.24 mmol, 0.088 g | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
reactant | 2-(4-isopropyl-4H-1,2,4-triazol-3-yl)aniline | 0.40 mmol, 0.080 g | C(C)(C)N1C(=NN=C1)C1=C(N)C=CC=C1 | C11H14N4
reactant | cesium carbonate | 0.50 mmol, 0.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | isopropyl alcohol | 1.2 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 1-(2-(4-isopropyl-4H-1,2,4-triazol-3-yl)phenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | 0.028 g, 20% | C(C)(C)N1C(=NN=C1)C1=C(C=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C27H23F3N8OS
